US07538172B2
A 250 ml round bottom flask was charged with 5.06 mmol (1.768 g) of 2,2,2-trifluoro-N-(4′-tert-butyl-3,5-dimethyl-biphenyl-4-yl)-acetamide, water (10 ml), and concentrated hydrochloric acid (10 ml). The mixture was heated to reflux for 17 h. The solution was allowed to cool to ambient temperature before it was evaporated to dryness. The residue was refluxed with Ba(OH)2.8H2O (9 g) in 100 ml of water for 1.5 h and then cooled to room temperature. This aqueous solution was extracted three times with 20 ml of CHCl3. The organic layer was dried over MgSO4, filtered, evaporated and dried under vacuum. The resulting brown precipitate of 4′-tert-butyl-3,5-dimethyl-biphenyl-4-ylamine was obtained in 69% yield. 1H NMR (CDCl3): δ=1.37 (s, 9H, C(CH3)3); 2.27 (s, 6H, ortho-CH3); 7.30-7.31 (d, 2H, CHar); 7.44-7.50 (m, 4H, CHar), 13C NMR (CDCl3): δ=18.3 (ortho-CH3); 31.4 (CH3); 34.6 (C(CH3)3); 125.8 (CHar); 126.8 (CHar); 127.2 (CHar); 135.5 (CHar); 137.3 (CHar); 141.4 (CHar); 150.7 (CHar).

reactant | 2,2,2-trifluoro-N-(4′-tert-butyl-3,5-dimethyl-biphenyl-4-yl)-acetamide | 5.06 mmol, 1.768 g | FC(C(=O)NC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(C)(C)C)C)(F)F | C20H22F3NO
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 4′-tert-butyl-3,5-dimethyl-biphenyl-4-ylamine | 69% yield | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=C(C(=C1)C)N)C | C18H23N
